US05015678
4-Benzoyloxy-1-[2-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-oxycarbonyl)ethoxy]-2,2,6,6-tetramethyl-piperidine
A mixture of 19.2 grams (69.6 mmol) of 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine, 0.8 grams of 10% palladium on carbon, 2.0 grams of anhydrous magnesium sulfate and 100 ml of anhydrous tetrahydrofuran is hydrogenated (48 psi, 25° C.) on a Parr apparatus for three hours. Solids are then removed by filtration. To the filtrate are added 19.7 grams (58.0 mmol) of 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl acrylate, 0.8 gram of potassium tert-butoxide and 40 ml of tetrahydrofuran. The reaction mixture is purged with nitrogen, stoppered and allowed to stand at 25° C. for five days. The mixture is then diluted with diethyl ether (200 ml), and washed successively with 1N hydrochloric acid (2×75 ml) and saturated sodium bicarbonate solution (200) ml), and then dried over anhydrous magnesium sulfate and concentrated to a pink residue. Purification by flash chromatography on silica gel (4:1, heptane:ethyl acetate) affords 12.7 grams (35% yield) of the title compound as a colorless syrup.

reactant | 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | 69.6 mmol, 19.2 grams | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
reactant | magnesium sulfate | 2.0 grams | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl acrylate | 58.0 mmol, 19.7 grams | C(C=C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C20H37NO3
reactant | potassium tert-butoxide | 0.8 gram | CC(C)([O-])C.[K+]
catalyst | palladium on carbon | 0.8 grams | [Pd] | Pd
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-Benzoyloxy-1-[2-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-oxycarbonyl)ethoxy]-2,2,6,6-tetramethyl-piperidine | 12.7 grams, 35% yield | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OCCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(C)C | C36H60N2O6
